US03948784
A sample of a water-soluble lubricant composed of triethanolamine caprylate, a triethanolamine salt of an acid phosphate ester, and water was obtained. The lubricant has been used in an industrial glass grinding operation and contained approximately 1.1% by volume glass fines. 100 ml. portions were treated, drop wise, with a cationic polyelectrolyte formed by the reaction of approximately 25% ethylene dichloride, 15% methyl chloride and 6% ammonia, in sufficient dilute caustic to bring the reaction mixture to 100%.

reactant | triethanolamine caprylate | C(CCCCCCC)(=O)O.N(CCO)(CCO)CCO
solvent | water | O | H2O
product | triethanolamine | N(CCO)(CCO)CCO | C6H15NO3
